US08648200B2
5-(Acetamidomethyl)-2-(difluoromethyl)-N-[4-methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl]pyridine-3-carboxamide
Dissolve 5-(aminomethyl)-2-(difluoromethyl)-N-[4-methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl]pyridine-3-carboxamide (0.047 g, 0.110 mmol) in DCM (3 mL). Add triethylamine (0.038 mL, 0.276 mmol) followed by acetyl chloride (9.830 μL, 0.138 mmol), and stir overnight. Pour the reaction into saturated aqueous NH4Cl (15 mL) solution, and extract with EtOAc (2×10 mL). Combine the organic extracts; dry the organic extracts over sodium sulfate; filter; collect the filtrate; and concentrate the filtrate under reduced pressure to dryness to give the title compound (0.039 g, 75% yield) as a light yellow solid. LCMS (m/z) 468 (M+1).

reactant | 5-(aminomethyl)-2-(difluoromethyl)-N-[4-methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl]pyridine-3-carboxamide | 0.110 mmol, 0.047 g | NCC=1C=C(C(=NC1)C(F)F)C(=O)NC=1NC(=C(N1)C)C1=CC=C(C=C1)C(F)(F)F | C19H16F5N5O
reactant | triethylamine | 0.276 mmol, 0.038 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.138 mmol, 9.830 μL | C(C)(=O)Cl | C2H3ClO
reactant | NH4Cl | 15 mL | [NH4+].[Cl-]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-(Acetamidomethyl)-2-(difluoromethyl)-N-[4-methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl]pyridine-3-carboxamide | 0.039 g, 75% yield | C(C)(=O)NCC=1C=C(C(=NC1)C(F)F)C(=O)NC=1NC(=C(N1)C)C1=CC=C(C=C1)C(F)(F)F | C21H18F5N5O2
